Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Hydromorphone
 
Attending: ___.
 
Chief Complaint:
Chronic Obstructive Pulmonary Disease
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old Female with gold stage 4 COPD, admitted from 
pulmonary clinic with concern for COPD exacerbation. PFTs were 
noted as worse than baseline, and Dr. ___ that she would 
need aggressive steroids. Dyspnea seems to be slightly worse per 
the patient, but not acutely so. She initially received IV 
steroids and Zithromax. Also underwent CTA chest to rule out PE.

In addition she notes long standing moderate frank hematochezia 
due to known hemorrhoids. She reports her stools are often 
grape-jelly like.

___ F w/ hx of COPD presenting for dyspnea. Pt went to 
pulmonary clinic today and found to have PFTs suggesting severe 
obstruction with FEV1 0.63L, 21% predicted, FVC 43% predicted. 
Pt states dyspnea has been getting worse. Denies any fevers. 
Appears very anxious on exam and unable to get clear history. Pt 
states she has tried nebulizers before and makes her "bounce off 
the walls."  
 In the ED, initial VS were 98.2 91/57 99 24 99%RA  
 Exam notable for extremely anxious. Appears dyspneic. Little 
air movement on auscultation. Guaiac negative in ED.  
 Labs showed  
 7.0>9.6/32.7<449  
 bland chem7  
 proBNP 75  
 troponin <0.01  
 CTA showed:  
 1. Limited by respiratory motion. No evidence of pulmonary 
embolism or aortic abnormality.  
 2. 1.9 cm paramediastinal fatty attenuation lesion likely 
represents a lipoma or hamartoma.  
 Patient was given:  
 lorazepam 1mg PO  
 methylprednisolone 40mg IV  
 Azithromycin 500mg IV  
 ketorolac 30mg IV  
 
 Decision was made to admit to medicine for further management.  

 Transfer VS were 98.6 88 119/77 18 100% NC  
 On arrival to the floor, patient reports...  
 REVIEW OF SYSTEMS:  
 (+) per HPI  
 (-) Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  
 All other 10-system review negative in detail.  

 
Past Medical History:
-hemorrhoids  
 -h/o pancreatitis  
 -constipation  
 -HFrEF - states had EF 40% at ___  
 -chronic dry eyes  
 -GERD  
 -s/p TAH complicated by abscess and two subsequent SBO  
 -chronic lower back pain s/p L4-5 and L5-1 posterior lumbar 
fusion.  

 
Social History:
___
Family History:
Mother - died from ___  
 Father - asbestos/lung cancer, died from MI age ___  

 
Physical Exam:
ADMIT PHYSICAL
==============
VS: 98.1 ___ 20 100%2LNC  
 GENERAL: Alert, tachypneic, anxious, pursed lip breathing  
 HEENT: NCAT, MMM, no  
 NECK: no elevated JVP  
 CARDIAC: Normal s1 and s2. No murmurs appreciated. No 
accentuated  
 second heart sound or RV heave.  
 LUNG: Symmetric expansion of the chest with markedly diminished 
 
 breath sounds throughout, no wheezes or rhonchi  
 ABDOMEN: soft, nontender, nondistended  
 EXTREMITIES: No edema. No cyanosis. No clubbing.  
 PULSES: radial 2+ bilaterally  
 NEURO: A&Ox3, anxious  
 SKIN: no rashes or lesions  

DISCHARGE PHYSICAL
==================
Vitals: 98.4, 115/64, 77, 20, 95 RA 
General: Anxious appearing female, speaking in full sentences, 
intermittently taking deep breaths  
HEENT: No scleral icterus, no conjunctival pallor.  OP clear 
with MMM.  
Lymph: No cervical, submandibular, supraclavicular LAD.  
CV: s1 s2, RRR, no MRG.  
Lungs: Decreased breath sounds throughout, otherwise CTABL.  
Abdomen: NABS, soft, NTND, no HSM.    
Ext: WWP, 2+ pulses throughout. No ___.  
Neuro: AOx3, grossly non-focal. 
 
Pertinent Results:
ADMIT LABS
==========
___ 08:20PM BLOOD WBC-7.0 RBC-3.87* Hgb-9.6*# Hct-32.7* 
MCV-85# MCH-24.8*# MCHC-29.4* RDW-17.1* RDWSD-52.9* Plt ___
___ 08:20PM BLOOD Neuts-30.4* Lymphs-53.1* Monos-14.8* 
Eos-0.6* Baso-0.4 NRBC-0.3* Im ___ AbsNeut-2.12 
AbsLymp-3.70 AbsMono-1.03* AbsEos-0.04 AbsBaso-0.03
___ 08:20PM BLOOD Plt ___
___ 11:10PM BLOOD ___ PTT-23.7* ___
___ 08:20PM BLOOD Glucose-77 UreaN-30* Creat-0.8 Na-138 
K-5.1 Cl-100 HCO3-26 AnGap-17
___ 08:20PM BLOOD calTIBC-555* Ferritn-9.1* TRF-427*

PERTINENT LABS
==============
___ 06:30AM BLOOD Ret Aut-1.8 Abs Ret-0.05
___ 06:30AM BLOOD ALT-10 AST-10 LD(LDH)-151 AlkPhos-65 
TotBili-<0.2
___ 06:30AM BLOOD Lipase-43
___ 08:20PM BLOOD cTropnT-<0.01
___ 08:20PM BLOOD proBNP-75
___ 08:20PM BLOOD calTIBC-555* Ferritn-9.1* TRF-427*
___ 06:00AM BLOOD Hapto-276*
___ 06:30AM BLOOD VitB12-334
___ 11:13PM BLOOD ___ pO2-45* pCO2-45 pH-7.35 
calTCO2-26 Base XS-0

MICRO
=====
NONE

IMAGING/STUDIES
===============
CTA CHEST ___
Limited by respiratory motion.  No evidence of pulmonary 
embolism to the 
segmental level or aortic abnormality. 

TTE ___
The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. Overall left ventricular systolic function is 
low normal (LVEF 50-55%). The right ventricular free wall is 
hypertrophied. with borderline normal free wall function. There 
is abnormal septal motion/position (there is an intermittent 
septal bounce that is nonspecific. Can be seen in constrictive 
pericarditis, but there is no other clear evidence for this 
including reduced e' velocities). The number of aortic valve 
leaflets cannot be determined. There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is borderline pulmonary 
artery systolic hypertension. There is an anterior space which 
most likely represents a prominent fat pad. 
IMPRESSION: Suboptimal image quality. Low normal global 
biventricular systolic function. Couldn’t assess RV size well 
but may be mildly dilated. Borderline pulmonary hypertension. 
Compared with the prior study (images reviewed) of ___ 
global biventricular systolic function is less vigorous. 
Pulmonary pressures are lower but could be underestimated due to 
limited interrogation angles with poor image quality (patient 
could not roll over for the technologist).  

CT ABD/PELV ___
FINDINGS:    
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no 
evidence of pleural or pericardial effusion.   
ABDOMEN:  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within normal limits.   
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding.   
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions.   
ADRENALS: The right and left adrenal glands are normal in size 
and shape.   
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is no evidence of focal renal lesions 
or hydronephrosis.  There is no perinephric abnormality.   
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout.  The colon and rectum are within normal 
limits.   
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis.   
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable.  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy.   
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted.   
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  
Fixation hardware noted from L4-S1.   
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.   
IMPRESSION:    
No imaging findings to explain the patient's hematocrit drop. 

DISCHARGE LABS
==============
___ 09:08AM BLOOD WBC-7.2 RBC-3.45* Hgb-8.7* Hct-29.3* 
MCV-85 MCH-25.2* MCHC-29.7* RDW-17.4* RDWSD-54.2* Plt ___
___ 09:08AM BLOOD Plt ___
___ 09:08AM BLOOD Glucose-85 UreaN-22* Creat-0.7 Na-143 
K-4.1 Cl-99 HCO___ AnGap-16
___ 09:08AM BLOOD Calcium-9.4 Phos-4.2 Mg-3.2*
 
Brief Hospital Course:
___ with hx of Gold Stage IV COPD, hemorrhoidal bleeding, GERD, 
and HFrEF (EF 40%) who presents from pulmonary clinic in setting 
of severe COPD, FEV1/FVC 32% (FEV1 21% predicted), new anemia of 
unclear etiology. She was treated with steroids and discharged 
on a steroid taper. There was concern initially for COPD 
exacerbation but further history revealed she was near her 
baseline respiratory function. Her respiratory function was 
concerning for her home safety and after ___ evaluation, the 
decision was made to discharge her to rehabilitation ___. 
During her hospitalization, she was found to have anemia 
(baseline Hgb from ___ of 12, down to 9 on admission and 
stable at 8). Given significant change from baseline, concern 
for active blood loss anemia. Stool guaiac x 3 negative, CT A/P 
without evidence of acute bleed/retroperitoneal bleed. Likely, 
anemia secondary to hemorrhoid bleeding per history but Hgb 
remained stable throughout remainder of hospitalization and was 
stable at 8.7 on discharge. 

# Acute on chronic anemia - Hemoglobin of 7.9 ___ (stably low 
on subsequent repeats ___ was concerning given 
history of severe hemorrhoids and also upper GI symptoms 
(epigastric pain and nausea)/history of acute pancreatitis 
(lipase normal).  This may all have been ___ hemorrhoidal 
bleeding, though initial rectal guaiac NEG.  Upper GI source 
considered (may be hidden somewhat ___ severe constipation), 
especially in setting of complaints of epigastric pain and 
ongoing steroid treatment for COPD.  No signs of RP bleed on 
physical exam, abdominal exam benign.  CT Abd/pelv ___ with NO 
sign of intraabdominal bleed.  Hemolysis labs unremarkable.  
Iron studies consistent with Fe deficiency (Fe 45, Ferritin 9.1, 
Fe sat ~8%), started PO supplemental iron.  Reticulocyte index 
<2% suggesting marrow suppression, furthermore WBC count quite 
low despite treatment with high dose steroids.  Patient with 
history of multiple SBOs, ?malabsorption, B12 equivocal at 334, 
together with Fe deficiency may have caused a normocytic 
anemia/cytopenias.  Started B12 supplementation at time of 
discharge.  After giving aggressive bowel regimen ___, patient 
had several BMs, the last of which this AM was mixed with red 
blood, most likely bleeding internal hemorrhoids.  Given that Hb 
was stable (8.4->8.7), patient cleared for discharge with close 
outpatient follow-up with her PCP to monitor CBC.        
- Pantoprazole 40mg BID
- Supplemental Iron
- Supplemental B12
- Continue bowel regimen as outpatient to prevent constipation 
leading to increased straining/worsening hemorrhoids 

# COPD - Gold Stage IV - Patient seen by ___ pulmonologist Dr. 
___, with whom primary team was in close contact.  Patient 
tried all standard treatments in past, much difficulties with 
different nebulizers ('jitteriness' and 'laryngitis').  Not 
using home O2, though it was prescribed.  Patient stated that 
she feels comfortable while still/in bed, dyspnea only with 
exertion.  O2 sats remained in high ___, no signs of acute CO2 
retention (pCO2 45 on VBG ___. Patient received duonebs 
q6h, intermittently refused due to 'laryngitis.'  Patient 
initially received IV methylpred and azithromycin on admission.  
Transitioned patient promptly to PO steroids, short taper esp in 
setting of ongoing anemia/upper GI complaints (will complete 
___.  d/c'd azithromycin ___.  Given Dr. ___, 
reached out to palliative care for support, they saw patient 
___ (discussed the possibility of starting methadone in future 
to help with respiratory symptoms, did not start the day of 
discharge).  SW also saw patient.  Patient seen by ___ ___, 
suggested outpatient rehab.  Social situation at home very 
difficult, patient lives home alone with little support.  Of 
note, PE initially considered as another explanation for ongoing 
SOB, though patient had good sats, no pleuritic chest pain, CTA 
chest NEG ___.

# Chronic heart failure with reduced ejection fraction - EF40% 
reportedly from ___ (___ ___.  Likely ___ 
cor pulmonale, unlikely acute exacerbation as BNP 75.  TTE ___, 
poor image quality, normal LV size and fxn, EF 50-55%, RV 
hypertrophy, improved pulm art HTN, less vigorous global 
biventricular fxn.  

# Chronic back pain ___ MVA s/p lumbar/sacral spinal fusion 
surgery.
- PRN acetaminophen
- PRN tramadol 
- Lidocaine patch

# Depression/Anxiety
- Continued diazepam 10mg q8h 

# Chronic Constipation
- Senna, Colace
- Miralx, bisacodyl PRN
- Biscodyl PR PRN

# GERD
- Protonix as above

===================
TRANSITIONAL ISSUES
- Steroid taper as follows: 
--- Prednisone 30 mg ___
--- Prednisone 20 mg ___
--- Prednisone 10 mg ___
- Started on Fe supplementation for low Fe. Started on bowel 
regimen to prevent constipation on this regimen 
- Started on B12 for level 334 in setting of normocytic anemia
- Consider further work up for low reticulocyte count and 
low-normal WBC during this admission.  
- Please repeat CBC in 1 week (___) to ensure stable. Hgb 
8.7 on discharge 
- Patient seen by palliative care, discussed possible methadone 
1mg ___ for dyspnea, did not start on day of discharge. Can 
consider if worsening dyspnea. 

DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Diazepam 10 mg PO Q8H:PRN anxiety 
3. Daliresp (roflumilast) 500 mcg oral DAILY 
4. Restasis 1 drop Other BID 
5. FLUoxetine 20 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
8. Ipratropium Bromide Neb 1 NEB IH Q6H 
9. Sumatriptan Succinate 50 mg PO ONCE MR1 
10. Vitamin D 5000 UNIT PO DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY  
2.  Docusate Sodium 100 mg PO BID  
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN sob  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  PredniSONE 30 mg PO DAILY Duration: 1 Dose 
30 mg ___ 20 mg ___ 10 mg ___ 
This is dose # 3 of 5 tapered doses 
7.  PredniSONE 20 mg PO DAILY Duration: 1 Dose 
This is dose # 4 of 5 tapered doses 
8.  PredniSONE 10 mg PO DAILY Duration: 1 Dose 
This is dose # 5 of 5 tapered doses 
9.  Senna 8.6 mg PO BID  
10.  Pantoprazole 40 mg PO Q12H  
11.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
12.  Atorvastatin 10 mg PO QPM  
13.  Diazepam 10 mg PO Q8H:PRN anxiety 
RX *diazepam 10 mg 1 tablet by mouth every eight (8) hours Disp 
#*9 Tablet Refills:*0 
14.  FLUoxetine 20 mg PO DAILY  
15.  Ipratropium Bromide Neb 1 NEB IH Q6H  
16.  Restasis 1 drop Other BID  
17.  Vitamin D 5000 UNIT PO DAILY  
18. HELD- Daliresp (roflumilast) 500 mcg oral DAILY  This 
medication was held. You stated you were no longer taking it. Do 
not restart Daliresp until speaking with your pulmonologist 
19. HELD- Sumatriptan Succinate 50 mg PO ONCE MR1  This 
medication was held. Do not restart Sumatriptan Succinate until 
speaking with your primary care physician 
20.Outpatient Lab Work
D64.9
Please check CBC on ___
Please fax results to Dr. ___  
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Chronic obstructive pulmonary disease
Anemia 

SECONDARY
Chronic lower back pain 
Hemorrhoids 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted for 
concern about your lung function. You were treated with 
steroids. During your hospitalization, you were found to have 
low blood counts which was concerning for bleeding but imaging 
testing and other lab work did not show evidence of an acute 
bleed. You were found to be iron deficient and should continue 
your iron supplementation.

Please continue your medications and follow up with your 
physicians as below.

Wishing you well,

Your ___ Care Team 
 
Followup Instructions:
___